US08895566B2
TFA (193 μL, 2.50 mmol) was added to a solution of (R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidine-1-carboxylate (32 mg, 0.10 mmol) in DCM (1 mL). The mixture was stirred at room temperature for 1 hour and concentrated to give (R)-5-methyl-4-(piperidin-4-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine as an oil, which was used further without purification.

reactant | TFA | 2.50 mmol, 193 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 4-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidine-1-carboxylate | 0.10 mmol, 32 mg | C[C@@H]1CCC=2N=CN=C(C21)C2CCN(CC2)C(=O)OC(C)(C)C | C18H27N3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-methyl-4-(piperidin-4-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | C[C@@H]1CCC=2N=CN=C(C21)C2CCNCC2 | C13H19N3
